US06403596B1
To a solution of 5-(2-methylsulfanylpyrimidin-4-yl)-2-oxo-6-(3-trifluoromethylphenyl)-1,2-dihydropyridine-3-carbonitrile (150 mg, 0.00040 mol) in 3 mL DMF was added cesium carbonate (200 mg, 0.00060 mol) and methyl iodide (1 mL, 0.0154 mol) and the solution stirred at room temperature for 1 h. The mixture was the partitioned between H2O and EtOAc and the organic phase dried over anhydrous sodium sulfate and concentrated. Chromatography on silica with 3% MeOH in CH2Cl2 yields 100 mg (65%) 1-methyl-5-(2-methylsulfanyl-pyrimidin-4-yl)-2-oxo-6-(3-trifluoromethyl-phenyl)-1,2-dihydropyridine-3-carbonitrile as a solid.

reactant | 5-(2-methylsulfanylpyrimidin-4-yl)-2-oxo-6-(3-trifluoromethylphenyl)-1,2-dihydropyridine-3-carbonitrile | 0.00040 mol, 150 mg | CSC1=NC=CC(=N1)C=1C=C(C(NC1C1=CC(=CC=C1)C(F)(F)F)=O)C#N | C18H11F3N4OS
reactant | cesium carbonate | 0.00060 mol, 200 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl iodide | 0.0154 mol, 1 mL | CI | CH3I
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 1-methyl-5-(2-methylsulfanyl-pyrimidin-4-yl)-2-oxo-6-(3-trifluoromethyl-phenyl)-1,2-dihydropyridine-3-carbonitrile | 100 mg, 65% | CN1C(C(=CC(=C1C1=CC(=CC=C1)C(F)(F)F)C1=NC(=NC=C1)SC)C#N)=O | C19H13F3N4OS
